US06002008
4(3-Dimethylamino-phenylamino)-8-methoxy-quinoline-3-carbonitrile
Using an analogous procedure to that described in Example 274. A reaction mixture of 250.0 mg (1.1 mmol) of 4-chloro-8-methoxy -3-quinolinecarbonitrile, 273.3 mg (3.0 mmol) of pyridine and 261.4 mg (1.25 mmol) of 3-dimethylaminoaniline hydrochloride in 10 mL of 2-ethoxyethanol was heated at 100° C. for 1.5 hr. The work up gave 294.8 mg (73.4%) of the product as a deep greenish yellow solid, m.p. 222-225° C., mass spectrum (electrospray, m/e): M+H 319.0.

reactant | 4-chloro-8-methoxy -3-quinolinecarbonitrile | 1.1 mmol, 250.0 mg | ClC1=C(C=NC2=C(C=CC=C12)OC)C#N | C11H7ClN2O
reactant | pyridine | 3.0 mmol, 273.3 mg | N1=CC=CC=C1 | C5H5N
reactant | 3-dimethylaminoaniline hydrochloride | 1.25 mmol, 261.4 mg | Cl.CN(C=1C=C(N)C=CC1)C
solvent | 2-ethoxyethanol | 10 mL | C(C)OCCO | C4H10O2
product | 4(3-Dimethylamino-phenylamino)-8-methoxy-quinoline-3-carbonitrile | CN(C=1C=C(C=CC1)NC1=C(C=NC2=C(C=CC=C12)OC)C#N)C | C19H18N4O
